US05112998
In 10 ml of dimethyl carbonate was dissolved 350 mg of 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxypregn-6-en-5α-ol, followed by addition of 50 mg of dichloroacetic acid, and the mixture was heated in an atmosphere of argon gas for 12 hours. The reaction mixture was then worked up in the same manner as Example 132 to give 90 mg of 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene showing the following physical properties.

reactant | 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxypregn-6-en-5α-ol | 350 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1C[C@@]2(C=C[C@H]3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(NC)=O)C)C)O | C33H47NO7
reactant | dichloroacetic acid | 50 mg | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | dimethyl carbonate | 10 ml | C(OC)(OC)=O | C3H6O3
product | 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene | 90 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(NC)=O)C)C)OC(=O)OC | C35H49NO9
